US07575788B2
In a 250 ml round bottomed flask, 12.5 g of 11-bromoundecanol was dissolved in 50 ml of dichloromethane. A slurry of 16.2 g pyridiniumchlorochromate (PCC) in 100 ml of dichloromethane was added. The mixture was stirred at room temperature for 2 hours and then poured into 300 ml of diethylether. A brown solid was filtered off and the liquid phase was passed through a short column of silica gel using diethylether as eluent. The organic solvent was evaporated under reduced pressure and the residue was dissolved in absolute ethanol (EtOH) and anhydrous calcium chloride was added together with a small amount of p-toluene sulphonic acid (not shown in Scheme IV). This reaction mixture was left at room temperature over night. The solvent was removed under vacuum and the residue was taken up in diethyl ether and washed with saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulphate, filtered, and evaporated until no more solvent came off. The residue was dissolved in 15 ml of ethyl acetate/petroleum ether 1:4 mixture (v/v) and purified using column chromatography with said solvent mixture as eluent. 9.5 g of 11-bromoundecanal diethyl acetal was isolated. The 1H-NMP spectrum of the compound was found to be in accordance with the structure in Scheme IV.

reactant | pyridiniumchlorochromate | 16.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethylether | 300 ml | C(C)OCC | C4H10O
reactant | 11-bromoundecanol | 12.5 g | BrCCCCCCCCCCCO | C11H23BrO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 11-bromoundecanal diethyl acetal | 9.5 g | C(C)OC(CCCCCCCCCCBr)OCC | C15H31BrO2
